US05476870
1-(1,1-Dimethylethyl) 15-phenylmethyl 3-[[(1,1-dimethylethoxy)carbonyl]amino]-12-oxo-2,4,11,14-tetraazapentadec-2-enedioate
A solution of 1.6 g (14×10-3 mol) of isobutyl chloroformate in 5 ml of tetrahydrofuran is added dropwise to a solution, cooled to -30° C., of 3 g (14×10-3 mol) of carbobenzyloxyglycine and 2.8 g (28×10-3 mol) of N-methylmorpholine in 50 ml of tetrahydrofuran. The reaction medium is stirred for 0.5 hour and a solution of 5.4 g (14×10-3 mol) of bis(1,1-dimethylethyl) [[(6-aminohexyl)imino]methylene]biscarbamate in 20 ml of tetrahydrofuran is added. Stirring is continued for 2 hours at -30° C. and then for 24 hours at room temperature. After filtration of the reaction medium and evaporation of the filtrate under reduced pressure, the residue obtained is purified by chromatography on silica using an ethyl acetate/methylcyclohexane mixture (1/1 v/v) as the eluent to give 7.16 g (yield: 91%) of the expected product in the form of an oil.

reactant | isobutyl chloroformate | 14×10-3 mol, 1.6 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | carbobenzyloxyglycine | 14×10-3 mol, 3 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
reactant | N-methylmorpholine | 28×10-3 mol, 2.8 g | CN1CCOCC1 | C5H11NO
reactant | bis(1,1-dimethylethyl) [[(6-aminohexyl)imino]methylene]biscarbamate | 14×10-3 mol, 5.4 g | NCCCCCCN=C(NC(OC(C)(C)C)=O)NC(OC(C)(C)C)=O | C17H34N4O4
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(1,1-Dimethylethyl) 15-phenylmethyl 3-[[(1,1-dimethylethoxy)carbonyl]amino]-12-oxo-2,4,11,14-tetraazapentadec-2-enedioate | 7.16 g, yield: 91% | CC(C)(OC(=O)NC(=NC(=O)OC(C)(C)C)NCCCCCCNC(CNC(=O)OCC1=CC=CC=C1)=O)C | C27H43N5O7
